US07855227B2
2-[[2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-1-pyrrolidin-1-yl-ethanone hydrochloride
This compound was obtained as a brown solid in 74% yield following the same procedure described in Scheme 21 for the synthesis of 2-[[2-[4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide, using 2-chloro-1-pyrrolidin-1-yl-ethanone as the reagent instead of 2-chloro-N,N-dimethyl-acetamide.

reactant | 2-[[2-[4-fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide | FC1=C(C=C(C=C1)CCN(CC(=O)N(C)C)CC1COCC1)OCC(F)(F)F | C19H26F4N2O3
reactant | 2-chloro-1-pyrrolidin-1-yl-ethanone | ClCC(=O)N1CCCC1 | C6H10ClNO
reactant | 2-chloro-N,N-dimethyl-acetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-[[2-[4-Fluoro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-1-pyrrolidin-1-yl-ethanone hydrochloride | 74% yield | Cl.FC1=C(C=C(C=C1)CCN(CC(=O)N1CCCC1)CC1COCC1)OCC(F)(F)F | InChI=1S/C21H28F4N2O3.ClH/c22-18-4-3-16(11-19(18)30-15-21(23,24)25)5-9-26(12-17-6-10-29-14-17)13-20(28)27-7-1-2-8-27;/h3-4,11,17H,1-2,5-10,12-15H2;1H
